2171-12-09 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Formaldehyde
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2171-12-8**] 10:07 PM
   Cefipime - [**2171-12-9**] 04:07 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2171-12-8**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-12-9**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.7
   HR: 90 (89 - 117) bpm
   BP: 122/75(85) {115/64(77) - 136/81(94)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    292 mL
                                                                    213 mL
   PO:
             TF:
   IVF:
                                                                    292 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    375 mL
   Urine:
                                                                    575 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -283 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   GENERAL: Pleasant, in pain, difficulty talking [**1-7**] oropharynx
   secretions
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear erythematous with sucretions. Neck
   with skin changes c/w xrt, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**]. no JVD.
   LUNGS: mild diffuse rhonchi, > LLL.  + TTP over left lower chest
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**12-7**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   208 K/uL
   10.6 g/dL
   98 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   8 mg/dL
   100 mEq/L
   136 mEq/L
   30.3 %
   3.3 K/uL
        [image002.jpg]
                             [**2171-12-8**]  11:12 PM
                             [**2171-12-9**]  05:15 AM
   WBC
   3.3
   Hct
   30.3
   Plt
   208
   Cr
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   98
   Other labs: PT / PTT / INR:15.5/59.6/1.4, CK / CKMB /
   Troponin-T:24/2/<0.01, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   54 yo male with SCC of the tongue recently finished chemo and
   undergoing XRT, who presents with chronic n/v related to his gtube as
   well as newly diagnosed PE and fevers.
   .
   #. PE: documented PE by CTA.  Chest pain less likely cardiac given
   history, known PE, first set of negative enzymes, and similar EKG.
   Underlying risk factors for PE include SCC, recent chemo/XRT, and
   reduced mobility at home [**1-7**] treatment- and poor nutrition-induced
   fatigue. Pt started on heparin gtt. Head CT did not show any acute
   abnormalities that would be concerning for bleed.
   - heparin IV drip by weight-based protocol
   - discuss long term anticoagulation with oncologist (coumadin vs.
   Lovenox)
   - TTE to evaluate for RV strain
   - check BNP to evaluate volume status
   .
   #. Fevers: potentially related to PE, but too high to not consider
   alternative dx. PNA is most likely in differential given LLL findings
   on CXR and CT c/w non-specific ground glass opacities.  UA negative and
   BCx pending.  Although patient is not neutropenic, he is somewhat
   immunosuppressed from chemo and malignancy, and we would opt to treat
   more conservately with abx for now rather than monitor off abx.
   - continue levaquin for 8 day course
   - D/C vanco and cefepime and monitor fevers, WBC
   .
   #. N/V: Pt had appointment with radiology on thursday to advance tube
   - discuss with GI, possibly do procedure earlier in the week
   - nutrition consult.
   .
   #. SCC: s/p chemo, undergoing xrt.
   - heme/onc consult in AM
   .
   ICU Care
   Nutrition: hold PEG TF until tube advanced
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-12-8**] 06:38 PM
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: bowel regimen, pain control with dilaudid prn (holding home
   oxycodone and fentanyl patch for now).
   Communication:  Comments: Wife, [**Name (NI) 455**].  [**Telephone/Fax (1) 12494**]
   Code status: Full code
   Disposition: ICU

2171-12-10 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - TTE -> LV function is probably normal, EF 55%, a
   focal wall motion abnormality cannot be fully excluded, RV not well
   seen. Mild aortic regurgitation
   - need to speak with heme/[**Last Name (un) **] output attg re: starting lovenox in house
   - GI rec IR-guided post-pyloric J-tube, EGD (non-urgent)
   24 Hour Events:
   Allergies:
   Formaldehyde
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2171-12-9**] 04:07 AM
   Vancomycin - [**2171-12-9**] 08:15 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2171-12-9**] 07:30 PM
   Heparin Sodium - [**2171-12-10**] 03:03 AM
   Hydromorphone (Dilaudid) - [**2171-12-10**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-12-10**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 87 (72 - 100) bpm
   BP: 120/73(85) {98/54(68) - 134/74(100)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,380 mL
                                                                    967 mL
   PO:
             TF:
   IVF:
                                                                  2,255 mL
                                                                    907 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    500 mL
   Urine:
                                                                    975 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,405 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GENERAL: Pleasant, in pain, difficulty talking [**1-7**] oropharynx
   secretions
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear erythematous with sucretions. Neck
   with skin changes c/w xrt, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**]. no JVD.
   LUNGS: mild diffuse rhonchi, > LLL.  + TTP over left lower chest
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**12-7**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   224 K/uL
   10.8 g/dL
   100 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   7 mg/dL
   105 mEq/L
   139 mEq/L
   31.3 %
   3.0 K/uL
        [image002.jpg]
                             [**2171-12-8**]  11:12 PM
                             [**2171-12-9**]  05:15 AM
                             [**2171-12-9**]  12:46 PM
                             [**2171-12-10**]  01:49 AM
   WBC
   3.3
   3.0
   Hct
   30.3
   29.6
   31.3
   Plt
   208
   224
   Cr
   0.6
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   98
   100
   Other labs: PT / PTT / INR:15.7/58.7/1.4, CK / CKMB /
   Troponin-T:24/2/<0.01, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   TTE:
   The left atrium is elongated. Left ventricular wall thickness, cavity
   size, and global systolic function are normal (LVEF>55%). Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded. There is no ventricular septal defect. The aortic root
   is mildly dilated at the sinus level. The aortic valve leaflets are
   mildly thickened (?#). There is no aortic valve stenosis. Mild (1+)
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. Trivial mitral
   regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. The pulmonary artery systolic pressure could not be
   determined. There is no pericardial effusion.
   Final CTA read:
   1. Multiple segmental and subsegmental PEs, as described above. There
   is
   also a larger lobar pulmonary embolus in the left lower lobar pulmonary
   artery.
   2. Scattered ground-glass nodular consolidations throughout the basilar
   part
   of the left lower lobe, most likely associated with abnormal perfusion
   given
   the presence of a large essentially occlusive pulmonary embolism
   serving this
   area. Less likely considerations are an additional inflammatory or
   infectious
   process. Chest CT surveillance is suggest in three months to show
   resolution,
   particularly given the history of malignancy. However, these nodules
   are not
   suggestive of metastases.
   3. Small hypodense renal lesions, probably cysts, but not entirely
   characterized. Confirmation with ultrasound is recommended.
   Assessment and Plan
   54 yo male with SCC of the tongue recently finished chemo and
   undergoing XRT, who presents with chronic n/v related to his gtube as
   well as newly diagnosed PEs.
   .
   #. PE: documented PEs by CTA. LLL ground glass changes likely c/w
   infarction given large PE in that segment. Pt on heparin gtt. Head CT
   did not show any acute abnormalities that would be concerning for
   bleed. TTE poor quality but no e/o right heart strain/failure. BNP only
   mildly elevated.
   - heparin IV drip by weight-based protocol
   - discuss long term anticoagulation with oncologist (coumadin vs.
   Lovenox)
   .
   #. Fevers: potentially related to PE with infarct, has been afebrile in
   past 24 hours. LLL changes may be c/w infarct, although cannot rule out
   infection.
   - consider D/C levaquin given final CTA read, no leukocytosis or fevers
   .
   #. N/V: Pt had appointment with radiology on thursday to advance tube
   - appreciate GI recs
   - ordered for angio J-tube advancement today
   - nutrition consult
   .
   #. SCC: s/p chemo, undergoing xrt.
   - heme/onc consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-12-8**] 06:38 PM
   20 Gauge - [**2171-12-8**] 10:10 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: call out

2171-12-10 11:57:00 Physician Attending Progress Note
Chief Complaint: Pulmonary Embolus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No SOB
   24 Hour Events:
                                  History obtained from [**Hospital 15**] Medical records
   Allergies:
   Formaldehyde
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2171-12-9**] 04:07 AM
   Vancomycin - [**2171-12-9**] 08:15 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2171-12-9**] 07:30 PM
   Hydromorphone (Dilaudid) - [**2171-12-10**] 08:15 AM
   Heparin Sodium - [**2171-12-10**] 10:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube,
   Tongue Ca
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-12-10**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 104 (79 - 104) bpm
   BP: 120/72(83) {99/54(68) - 120/73(100)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,380 mL
                                                                  1,516 mL
   PO:
             TF:
   IVF:
                                                                  2,255 mL
                                                                  1,376 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    500 mL
   Urine:
                                                                    975 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,405 mL
                                                                  1,018 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tongue mass
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , Crackles : few mid insp, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   224 K/uL
   100 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   7 mg/dL
   105 mEq/L
   139 mEq/L
   31.3 %
   3.0 K/uL
        [image002.jpg]
                             [**2171-12-8**]  11:12 PM
                             [**2171-12-9**]  05:15 AM
                             [**2171-12-9**]  12:46 PM
                             [**2171-12-10**]  01:49 AM
   WBC
   3.3
   3.0
   Hct
   30.3
   29.6
   31.3
   Plt
   208
   224
   Cr
   0.6
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   98
   100
   Other labs: PT / PTT / INR:15.7/41.2/1.4, CK / CKMB /
   Troponin-T:24/2/<0.01, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PULMONARY EMBOLISM (PE), ACUTE
   Has done well w/o hemodyn compromise.  Will need to convert to
   enoxaparin for long term rx. Plan is for conversion of G to J-tube this
   adm.  No gross asp but grnd glass at bases makes chronic aspiration
   likely
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2171-12-8**] 06:38 PM
   20 Gauge - [**2171-12-8**] 10:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes